US04008256
Procedure was as in example 2, but acetic anhydride was added to the mixture of furfuryl alcohol and triethyl amine. The crude yield was 1149 g and the concentration was 58.7%, i.e., the yield was 99.5%. The crude product was washed 4 times with 200 ml water, whereby 641.3 g furfuryl acetate was obtained, its concentration was 96.2%, i.e., the yield was 91.0%.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | furfuryl alcohol | C(C1=CC=CO1)O | C5H6O2
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | furfuryl acetate | 641.3 g, yield was 99.5% | C(C)(=O)OCC1=CC=CO1 | C7H8O3
